US08466114B2
To a stirred solution of 3,4-dihydro-2H-benzo[1,4]oxazine (5 g, 37.0 mmol) in DMF (20 mL) was added potassium tert-butoxide (6.22 g, 55.55 mmol) at 0° C. After stirring for 5 min, bromo-cyclopropane (4.44 mL, 55.55 mmol) was added and the reaction mixture was stirred for another 4 h at room temperature. The reaction was quenched by addition of water and extracted with ethyl acetate (50×2 mL). The organic layer was washed with water (20 mL), concentrated and purified by silica gel column chromatography to furnish 4-Cyclopropyl-3,4-dihydro-2H-benzo[1,4]oxazine (4.42 g).

reactant | 3,4-dihydro-2H-benzo[1,4]oxazine | 37.0 mmol, 5 g | O1CCNC2=C1C=CC=C2 | C8H9NO
reactant | potassium tert-butoxide | 55.55 mmol, 6.22 g | CC(C)([O-])C.[K+]
reactant | bromo-cyclopropane | 55.55 mmol, 4.44 mL | BrC1CC1 | C3H5Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-Cyclopropyl-3,4-dihydro-2H-benzo[1,4]oxazine | 4.42 g | C1(CC1)N1CCOC2=C1C=CC=C2 | C11H13NO
